Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Percocet
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ ___ only with PMH significant for DM2, HTN, OA, 
chronic low back pain on a narcotics contract, somatoform 
disorder, depression and anxiety, dementia and Parkinsonian 
tremor who presents with acute mental status changes x ___ days. 
Of note patient has been on chronic narcotics on a narcotics 
contract, dosing recently increased, due to intractable pain 
that required hospitalization. Sedation has always been a 
concern and patient has been monitored closely by ___ and other 
home services. Recently there has been some concern by ___, 
___ regarding polypharmacy with opiates that she should not 
still have and benzodiazepines which were prescribed many months 
ago.  
.  
In the ED, initial VS:97.2 64 125/65 16 100% ra. Patient was 
lethargi and confused with diffuse abdominal pain on 
examination. RR 11 with airway protected. Labs were generally 
unremarkable, serum tox negative for benzos. Blood culture 
obtained. No EKG changes. LP not done due to absence of fevers. 
No other intervention was made. Pt was admitted for observation 
of sedation thought to be secondary to polypharmacy. Vital signs 
at time of transfer were: 98.1 58 113/49 18 97% room air.  
.  
Currently, patient is unable to provide additional information 
due to letheragy and poor concentration. Her belongings include 
MSContin 30mg dose with 11 additional days, prescribed ___. And 
Oxycodone with many tabs, not counted.  
.  
ROS: Denies fever, headache, vision changes, cough, shortness of 
breath, chest pain, abdominal pain, nausea, vomiting, 
constipation. Remainder of ROS unable to ascertain.
 
Past Medical History:
- Type 2 diabetes mellitus, diet controlled
- Hypertension
- Hyperlipidemia
- Osteoarthritis
- Chronic low back pain
- Somatoform disorder
- Depression/anxiety
- Dementia
- Parkinsonism, tremor
- Osteoarthritis
- Status post appendectomy
- Status post total knee replacement x 2
- Status post left wrist spur removal
- Cesarean section x 3
- History of L4-S1 decompression and fusion, recent, removal of 
broken hardware at S1 with a revision arthrodesis, repeat CT 
scan shows pseudoarthrosis at L5-S1, with decompression down S2, 
and L3-L4 arthropathy, s/p L4-S1 anterior lumbar interbody 
fusion followed by posterior stabilization, revision 
decompression with iliac screws
- right humerous fracture ___
 
Social History:
___
Family History:
Significant for depression and hypertension.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - Temp 97.3 F, BP 158/82 , HR 67, R12 , O2-sat94% % RA  
GENERAL - elderly female in NAD, eyes closed, responding 
inappropriately to questioning (mainly opting not to respond)  
HEENT - NC/AT, PERRLA, + tyrigium, EOMI, sclerae anicteric, MMM, 
OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat,  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, mildly tender to deep palpation, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - lethargic, alert and oriented to person, date (thinks it 
is ___, but not place. CNs - pupilary constriction, EOMI, 
muscle strength ___ throughout, sensation grossly intact 
throughout, DTRs 2+ and symmetric, no appreicated tremor. did 
not attempt to examine gait

 
Pertinent Results:
ADMISSION LABS:
.
___ 10:10PM BLOOD WBC-6.9 RBC-3.84* Hgb-12.3 Hct-36.4 
MCV-95 MCH-32.1* MCHC-33.9 RDW-12.7 Plt ___
___ 10:10PM BLOOD Neuts-49.4* Lymphs-44.9* Monos-4.3 
Eos-1.1 Baso-0.3
___ 10:10PM BLOOD Plt ___
___ 10:10PM BLOOD Glucose-95 UreaN-15 Creat-0.8 Na-140 
K-4.3 Cl-104 HCO3-25 AnGap-15
___ 10:10PM BLOOD ALT-14 AST-21 AlkPhos-103 TotBili-0.5
___ 10:10PM BLOOD CK-MB-3
___ 10:10PM BLOOD cTropnT-<0.01
___ 10:10PM BLOOD Albumin-4.7 Calcium-9.4 Phos-4.6* Mg-2.1
___ 10:10PM BLOOD TSH-1.4
___ 10:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:21PM BLOOD Lactate-1.1
___ 11:50PM URINE Color-Straw Appear-Clear Sp ___
___ 11:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM 
___ 11:50PM URINE RBC-<1 WBC-4 Bacteri-NONE Yeast-NONE 
Epi-0
___ 11:50PM URINE WBC Clm-RARE Mucous-RARE
___ 11:50PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG
.
PERTINENT LABS:
.
___ 10:10PM BLOOD ALT-14 AST-21 AlkPhos-103 TotBili-0.5
___ 10:10PM BLOOD CK-MB-3
___ 10:10PM BLOOD cTropnT-<0.01
___ 10:10PM BLOOD TSH-1.4
___ 10:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:21PM BLOOD Lactate-1.1
___ 11:50PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG
.
.
.
MICRO/PATH:
.
Blood Cultures x 2 ___: NGTD
Urine Culture ___: No growth
Blood Cultures x 2 ___: NGTD
RPR ___: PENDING
.
IMAGING/STUDIES:
.
CT Head W/O Contrast ___:
IMPRESSION: No evidence of acute intracranial process.
.
CXR ___:
FINDINGS: As compared to the prior examination, lung volumes are 
lower
causing some bronchovascular crowding. No focal opacity to 
suggest pneumonia is seen. There may be mild vascular 
congestion. No pneumothorax or pleural effusion is present. The 
cardiomediastinal silhouette is within normal limits.
.
Abdominal XR ___:
IMPRESSION: Paucity of bowel gas. Multiple fluid filled loops 
cannot be
excluded. Recommend CT for better assessment if clinically 
indicated.
.
Abdominal XR ___:
IMPRESSION: Two frontal and one left decubitus view of the 
abdomen show no
evidence of intestinal obstruction or perforation and no large 
intra-abdominal fluid collections. Loops of large and small 
bowel containing air show no wall thickening or intramural 
emphysema.
.
Patient has had lumbosacral osteotomy and stabilization below 
the level of
severe disc degeneration and osteophyte formation. The 
appearances are
grossly unchanged since ___.
.
CXR ___:
IMPRESSION: PA and lateral chest compared to ___:
Lungs are fully expanded and clear. There is no pleural 
effusion. Heart size is normal. Thoracic aorta in the region of 
the aortic knob and proximal descending aorta is enlarged. But 
there has been no change since ___.
.
LABS PRIOR TO DISCHARGE:
___ 07:15AM BLOOD WBC-7.5 RBC-3.76* Hgb-11.9* Hct-33.9* 
MCV-90 MCH-31.6 MCHC-35.0 RDW-12.8 Plt ___
___ 07:15AM BLOOD Glucose-90 UreaN-19 Creat-1.0 Na-143 
K-3.9 Cl-105 HCO3-30 AnGap-___ year old ___ only female with multiple medical 
problems most notably chronic pain from lumbar spine and OA on 
recently increased narcotics doses, also on a number of other 
sedating medications noted to be increasingly sedated at home.  
.
ACTIVE DIAGNOSES:  
.  
# Acute Encepholapathy/Polypharmacy: Ms. ___ presented to the 
ED with AMS likely due to polypharmacy of her pain, sleeping, 
and anti-anxiety medications. She initially described taking 15 
pills of 5mg oxycodone at once but without intention of 
self-harm but later vehemently denied doing so. She was found to 
be somnolent but not requiring narcan and able to protect her 
airway. CT head, CXR, UA, and TSH were all negative or wnl's and 
her vital signs and exam were normal. Urine and serum toxicology 
was positive for opioids but otherwise negative. Her opioids, 
gabapentin, trazodone, mirtazapine, ambien, ativan, and 
pramipexole were held as she was observed and her mental status 
gradually improved. She then developed si/sx consistent with 
opioid and possibly benzo withdrawal, predmoninantly diffuse 
abdominal pain, nausea, and small volumes of watery emesis with 
minimal tenderness on exam without peritoneal signs and negative 
KUB x 2, mild, slowly uptrending leukocytosis, and negative 
lactates daily. She was evaluated by psych who felt her 
presentation could be consistent with withdrawal but that she 
lacked certain findings such as pupillary dilatation, yawning, 
and goose bumps. She was started back on decreased doses of her 
home pain medications, valium, gabapentin, and sleeping 
medications and her symptoms began to resolve. She was 
discharged on on her mirtazapine, valium (decreased dose), MS 
___ standing 12.5 BID, and pramipexole, PRN oxycodone (which 
will be filled in a separate vial per her pharmacy to avoid 
confusion, the rest of her medications will be filled in a 
bubble pack). Several hours were spent trying to obtain and 
confirm medications with patient, worked with pharmacist on team 
to optimize list, and contacted her outpatient pharmacy to have 
bubble packs and only one PRN bottle. ___ has been instructed to 
remove all old medications, and monitor her pill intake so as to 
avoid accidental misuse of her medications. She was set up with 
outpatient follow-up with her PCP and her cognitive 
neuropsychiatrist.  
.
CHRONIC DIAGNOSES:
.  
# Chronic Pain: Pt has chronic low back pain and multiple low 
back surgeries requiring admissions for pain control in the 
past. She was treated with standing tylenol, lidocaine patch, 
and topical capsaicin but was ultimately placed on lower doses 
of her current pain regimen as above.
.  
# Hypertension: Stable. Continued home amlodipine and atenolol.  

.  
# GERD: Stable. Continued on her home omeprazole. 
.  
# Dry mouth: Stable. Her home oral elixirs including those 
containing lidocaine and diphenhydramine were held for concerns 
of accumulate in the elderly and AMS.  
.  
# Parkinsonian Tremor: Pt was without tremor on exam. Her home 
pramipexole was held for concerns that it may have been 
contributing to her AMS, but restarted prior to discharge and 
patient was stable.  
.  
# Diet Controlled Diabetes: Stable. Maintained on a conservative 
HISS in-house. 
.  
# Glaucoma: Stable. Continued on her home eye drops.  
.  
# Hyperlipidemia: Stable. Continued on her home simvastatin.
.
TRANSITIONAL ISSUES:
1) Polypharmacy: Pt had consilidation of her outpatient 
medications. Her outpatient pharmacy was contacted in order to 
have bubble packs prepared and one PRN vial (oxycodone) for her 
opiods. Patient will have ___ to assist with medications, 
instructions to remove all previous meds and monitor her pill 
intake. 
2) Patient has follow up with PCP and cognitive 
neuropsychiatrist. PCP made aware of several medication changes.
 
Medications on Admission:
AMLODIPINE 5mg Daily
ATENOLOL 25 mg BID  
DIAZEPAM - 2 mg tid   
MIRTAZAPINE - 30 mg qhs  
MS ___ 30mg BID  
OMEPRAZOLE - 20 mg bid
OXYCODONE - 5 mg TID prn
Miralax daily
PRAMIPEXOLE - 0.5 mg tid  
SIMVASTATIN - 20 mg qhs 
TRAZODONE - 300mg qhs  
ZOLPIDEM - 10 mg Tablet - 1 Tablet(s) by mouth at bedtime 
DOCUSATE 100 mg bid
GABAPENTIN 300mg PO TID
LORAZEPAM 1mg PO QHS
CENTRUM SILVER 1 tab daily
.
(Additional per OMR)
-PREDNISOLONE ACETATE - 1 % Drops both eyes bid  
-CALCIUM CARBONATE 600mg daily  
-ERGOCALCIFEROL 400 unit daily  
-SALIVA STIMULANT AGENTS COMB.2 - Liquid - ___ cc swish and  
swirl in the mouth q4 hours (Also please discontinue Gabapentin  

completely)  
-SALIVA STIMULANT AGENTS COMB.2 [BIOTENE ORALBALANCE] - Liquid - 
 
swish and spit 30 ml four times a day  
-VITAMIN E - 400 unit daily  
- should have run out of lorazepm, mirtazepine, valium based on 
prescription frequency. fentanyl patch last prescribed in ___.  
-LOTEPREDNOL ETABONATE [LOTEMAX] - 0.5 % Drops, Suspension - 1 
gt bid
 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
Daily PRN as needed for constipation.  
4. prednisolone acetate 1 % Drops, Suspension Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
5. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
QHS PRN as needed for constipation.  
8. diazepam 2 mg Tablet Sig: 0.5 Tablet PO BID (2 times a day).
Disp:*30 Tablet(s)* Refills:*0*
9. famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
11. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
12. morphine 15 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).
Disp:*60 Tablet Extended Release(s)* Refills:*0*
13. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
14. pramoxine-mineral oil-zinc ___ % Ointment Sig: One (1) 
Appl Rectal TID (3 times a day) as needed for rectal pain.  
15. trazodone 50 mg Tablet Sig: Three (3) Tablet PO QHS PRN as 
needed for insomnia.  
16. Vitamin D 400 unit Capsule Sig: One (1) Capsule PO once a 
day.  
17. Calcium 600 600 mg (1,500 mg) Tablet Sig: One (1) Tablet PO 
once a day.  
18. simethicone 80 mg Tablet Sig: One (1) Tablet PO four times a 
day as needed for gas.  
19. pramipexole 0.75 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
20. simvastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Altered Mental Status
-Suspected opioid overdose
-Polypharmacy
.
Secondary:
-GERD
-Diet-controlled DM
-HTN

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
.
It was a pleasure taking care of you. You were admitted to ___ 
for evaluation and treatment of altered mental status, 
sleepiness, and confusion. You had a CT scan of your head which 
did not show anything harmful, and tests looking for infections 
or other causes for your confusion. It seems that you had taken 
too many pain medications at the same time which made you very 
sleepy and confused.
.
There has been a lot of confusion surrounding your medications 
that you were taking at home, and we have made several 
adjustments to your medications. We are recommending to the 
nurse that takes care of you to clear out all of your 
medications, and we will be starting you on these medications 
from now on.

We have recommended for your visiting nurse to completely remove 
all of your medications from your house, as you will be starting 
on this new medication regimen that has worked well for you in 
the hospital.
.
Please follow-up with the appointments below.
 
Followup Instructions:
___